US04692523
N-methylcaprolactam
5.4 g (0.1 mol) of sodium methylate and 18.5 g (0.1 mol) of N-trimethylsilylcaprolactam are introduced successively into 150 ml of 1,2-dimethoxyethane, and the mixture is stirred at room temperature for 30 minutes. Then 11 g (0.1 mol) of methyl methanesulfonate are added dropwise. After the reaction mixture has been stirred at 50° C. for a further one hour, it is cooled, the sodium mesylate is removed by filtration with suction, and the filtrate is evaporated. The oily residue is distilled in vacuo.

reactant | sodium methylate | 0.1 mol, 5.4 g | C[O-].[Na+]
reactant | N-trimethylsilylcaprolactam | 0.1 mol, 18.5 g | C[Si](N1C(CCCCC1)=O)(C)C | C9H19NOSi
reactant | methyl methanesulfonate | 0.1 mol, 11 g | CS(=O)(=O)OC | C2H6O3S
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
product | N-methylcaprolactam | CN1C(CCCCC1)=O | C7H13NO
